US07053078B2
(R)-2-(4-Methoxybenzoylamino)-2-phenylethylamine.
Using Deprotection Method A, (R)-2-(4-methoxybenzoylamino)-2-phenylethyl azide (46.3 g) in THF (400 mL) afforded, after recrystallization with ethyl acetate, 35.4 g (84%) of the title compound.

reactant | (R)-2-(4-methoxybenzoylamino)-2-phenylethyl azide | 46.3 g | COC1=CC=C(C(=O)N[C@@H](CN=[N+]=[N-])C2=CC=CC=C2)C=C1 | C16H16N4O2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-Methoxybenzoylamino)-2-phenylethylamine | COC1=CC=C(C(=O)N[C@@H](CN)C2=CC=CC=C2)C=C1 | C16H18N2O2
